US07635684B2
3-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-hydroxypropoxy)phenyl]methyl}-5-isopropyl-1H-pyrazole
3-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-benzyloxypropoxy)phenyl]methyl}-5-isopropyl-1H-pyrazole (2.75 g) was dissolved in a mixed solvent of methanol (20 mL) and tetrahydrofuran (9 mL). To the solution was added 10% palladium-carbon powder (550 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 4 hours. The insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure to give the title compound (2.4 g).

reactant | 3-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-benzyloxypropoxy)phenyl]methyl}-5-isopropyl-1H-pyrazole | 2.75 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)OCCCOCC1=CC=CC=C1)C(C)C | C37H46N2O12
solvent | methanol | 20 mL | CO | CH4O
solvent | tetrahydrofuran | 9 mL | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 550 mg | [C].[Pd]
product | 3-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-hydroxypropoxy)phenyl]methyl}-5-isopropyl-1H-pyrazole | 2.4 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)OCCCO)C(C)C | C30H40N2O12
